US09428509B2
2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine
To a degassed mixture of 2-chloro-5-iodo-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), (4,5,5-trimethyl-2-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-1,3,2-dioxaborolan-4-yl)methylium (1.2 equiv) and tripotassium phosphate trihydrate (3 equiv) in a 9:1 mixture of 1,4-dioxane and water (0.09 M) was added palladium 1,1-bis(diphenylphosphion)-ferrocene dichloride (0.2 equiv). The reaction mixture was stirred at 100° C. for 2 h. After the reaction was complete, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-20% ethyl acetate in petroleum ether) to afford the title compound (82% yield) as a red solid. MS (ESI) m/z 614.2 [M+1]+.

reactant | 2-chloro-5-iodo-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC(C)C | C15H23ClIN3O2Si
reactant | (4,5,5-trimethyl-2-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-1,3,2-dioxaborolan-4-yl)methylium | 1.2 equiv | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N(C=CN1)COCC[Si](C)(C)C)[CH2+]
reactant | tripotassium phosphate trihydrate | 3 equiv | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.09 M | O | H2O
product | 2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 82% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)COCC[Si](C)(C)C)OC(C)C | C30H44ClN5O3Si2
